US04755511
Dimethylammonium chloride (8.0 g), formalin solution (5.1 ml, 37%) and concentrated hydrochloric acid (2 drops) were stirred at room temperature for 5 minutes, then added to acetic anhydride (35 ml). After 20 minutes, vigorous boiling occurred. 5-Acetamido-indanone (11.5 g) was added and the mixture stirred at 100° C. for one hour, then concentrated. The crude product was treated with acetone (100 ml) for 3 minutes then the mixture was reconcentrated. Water (150 ml) was added and unreacted ketone was extracted from the mixture into dichloromethane. The aqueous layer was separated, basified with dimethylamine and shaken with dichloromethane (100 ml). The organic layer was removed, evaporated and the gummy residue obtained was partitioned between dilute hydrochloric acid and dichloromethane. The aqueous layer was separated and concentrated to low volume to give white feathery needles (7.6 g, m.p. 182°-183° C.) of 5-acetamido-2-dimethylaminomethyl-1-indanone hydrochloride.

reactant | Dimethylammonium chloride | 8.0 g | [Cl-].C[NH2+]C
reactant | formalin | 5.1 ml | C=O | CH2O
reactant | acetic anhydride | 35 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-Acetamido-indanone | 11.5 g | C(C)(=O)NC=1C=C2CCC(C2=CC1)=O | C11H11NO2
catalyst | hydrochloric acid | 2 drops | Cl | ClH
product | 5-acetamido-2-dimethylaminomethyl-1-indanone hydrochloride | 7.6 g | Cl.C(C)(=O)NC=1C=C2CC(C(C2=CC1)=O)CN(C)C | InChI=1S/C14H18N2O2.ClH/c1-9(17)15-12-4-5-13-10(7-12)6-11(14(13)18)8-16(2)3;/h4-5,7,11H,6,8H2,1-3H3,(H,15,17);1H
